US07605168B2
Step 3—Preparation of 4-[1-Benzenesulfonyl-5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid ethyl ester 135
1-Benzenesulfonyl-5-(3,4-dimethoxy-phenyl)-3-iodo-1H-pyrrolo[2,3-b]pyridine (0.0800 g, 0.000151 mol), 4-Ethynyl-benzoic acid ethyl ester (0.0321 g, 0.000181 mol), Bis(triphenylphosphine)palladium(II) chloride (0.0048 g, 0.0000069 mol), and Copper(I) iodide (0.00024 g, 0.0000013 mol) were dissolved in Triethylamine (0.8 mL, 0.005 mol) under an atmosphere of Nitrogen. The resulting mixture was heated to 60° C. and stirred under an atmosphere of Nitrogen for 2 hours. The reaction mixture was was concentrated under reduced pressure and water (30 mL) was added to the residue. This slurry was extracted with ether. (20 mL 2×). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The crude was purified by chromatography (Silica gel, ethyl acetate/hexanes to give 85 mg of the titled product as a pale orange solid. MS(ESI) [M+H+]+=567.10

reactant | 1-Benzenesulfonyl-5-(3,4-dimethoxy-phenyl)-3-iodo-1H-pyrrolo[2,3-b]pyridine | 0.000151 mol, 0.0800 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=C(C2)C2=CC(=C(C=C2)OC)OC)I | C21H17IN2O4S
reactant | 4-Ethynyl-benzoic acid ethyl ester | 0.000181 mol, 0.0321 g | C(C)OC(C1=CC=C(C=C1)C#C)=O | C11H10O2
reactant | Triethylamine | 0.005 mol, 0.8 mL | C(C)N(CC)CC | C6H15N
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.0000069 mol, 0.0048 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 0.0000013 mol, 0.00024 g | [Cu]I
product | 4-[1-Benzenesulfonyl-5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid ethyl ester | 85 mg | C(C)OC(C1=CC=C(C=C1)C#CC1=CN(C2=NC=C(C=C21)C2=CC(=C(C=C2)OC)OC)S(=O)(=O)C2=CC=CC=C2)=O | C32H26N2O6S
